US09290490B2
Methyltriphenylphosphonium bromide (2.58 g, 7.22 mmol), potassium tert-butoxide (0.8248 g, 7.35 mmol) and toluene (24 ml) were combined and heated under reflux for 1 h. Then, the mixture was cooled to −10° C. and ethyl trans-4-[(5-bromo-1,3-thiazol-2-yl) carbonyl]cyclohexane-carboxylate (1.022 g, 2.95 mmol) in 2 ml of toluene was added dropwise. The mixture was stirred between 2° C. to 3° C. for 1.5 h. The reaction was diluted with aqueous saturated ammonium chloride, extracted with EtOAc (2×) and the combined organic phases were washed with water, brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified on silica gel (0-8% EtOAc in hexane) to afford ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)but-3-en-1-yl]cyclohexanecarboxylate. MS ESI calc'd. for C16H22BrNO2S [M+H]+ 372, 374. found 372, 374. 1H NMR (500 MHz, CDCl3) δ 7.56 (s, 1H), 5.65 (dd, J=6.9, 10.2, 1H), 5.13-4.79 (m, 2H), 4.10 (q, J=7.1, 2H), 2.97-2.89 (m, 1H), 2.62-2.38 (m, 2H), 2.23-1.86 (m, 4H), 1.70-1.60 (m, 2H), 1.50-1.28 (m, 2H), 1.23 (t, J=7.0, 3H), 1.12-0.92 (m, 2H).

reactant | potassium tert-butoxide | 7.35 mmol, 0.8248 g | CC(C)([O-])C.[K+]
reactant | ethyl trans-4-[(5-bromo-1,3-thiazol-2-yl) carbonyl]cyclohexane-carboxylate | 2.95 mmol, 1.022 g | BrC1=CN=C(S1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)OCC | C13H16BrNO3S
catalyst | Methyltriphenylphosphonium bromide | 7.22 mmol, 2.58 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 24 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)but-3-en-1-yl]cyclohexanecarboxylate | BrC1=CN=C(S1)C(CC=C)[C@@H]1CC[C@H](CC1)C(=O)OCC | C16H22BrNO2S
